US05332753
2-Bromo-4'-methylacetophenone (12.78 g; 0.06 mole), sodium triazole (5.46 g; 0.06 mole) in dry acetonitrile solution (100 ml) were stirred at 20° C. for 5 hours. The solvent was evaporated and the residue purified by chromatography using silica gel/chloroform to give 2-(1,2,4-triazol-1- yl)-4'-methylacetophenone as a white solid (mp 118.4° C.). The latter compound (3.0 g; 0.015 mole) together with sodium acetate (1.23 g; 0.015 mole) and acetic acid (30 ml), was stirred at 40° C. during the addition of bromine (2.38 g; 0.015 mole) in acetic acid (2 ml). The mixture was stirred for a further 30 minutes and poured into chloroform (50 ml) and washed with water and sodium bicarbonate solution. The chloroform layer was separated, dried (MgSO4) and evaporated to give crude 2-bromo-2-(1,2,4-triazol-1-yl)-4'-methylacetophenone.

reactant | 2-Bromo-4'-methylacetophenone | 0.06 mole, 12.78 g | BrCC(=O)C1=CC=C(C=C1)C | C9H9BrO
reactant | sodium triazole | 0.06 mole, 5.46 g | N1N=NC=C1.[Na]
reactant | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 2-(1,2,4-triazol-1- yl)-4'-methylacetophenone | N1(N=CN=C1)CC(=O)C1=CC=C(C=C1)C | C11H11N3O
